US08383637B2
N-[2-(3′-Formyl-4′-nitro-biphenyl-2-yl)-ethyl]-benzenesulfonamide
A mixture of 2-nitro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde (0.001 mol), N-[2-(2-bromo-phenyl)-ethyl]-benzenesulfonamide (0.0012 mol) and Pd(PCy3)2Cl2 (0.00005 mol) in DME (5 mL) and 1M Na2CO3 (2 mL) in a reaction vial was stirred for 3 hours at 80° C., then DME was removed under a stream of N2 and the resulting mixture was extracted with CH2Cl2. The mixture was filtered through Extrelut, and the organic layer was blown dry, then the desired product was isolated by FAST-synthesis to yield the title compound as a residue.

reactant | 2-nitro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 0.001 mol | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H16BNO5
reactant | N-[2-(2-bromo-phenyl)-ethyl]-benzenesulfonamide | 0.0012 mol | BrC1=C(C=CC=C1)CCNS(=O)(=O)C1=CC=CC=C1 | C14H14BrNO2S
solvent | DME | 5 mL | COCCOC | C4H10O2
solvent | Na2CO3 | 1M, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | N-[2-(3′-Formyl-4′-nitro-biphenyl-2-yl)-ethyl]-benzenesulfonamide | C(=O)C=1C=C(C=CC1[N+](=O)[O-])C1=C(C=CC=C1)CCNS(=O)(=O)C1=CC=CC=C1 | C21H18N2O5S
